US06794403B2
2-(3-Chloro-4-hydroxyphenyl)-1,3-benzoxazol-6-ol
The title compound was prepared in substantially the same manner as described in Example 1, from 2,4-dimethoxyaniline, and 3-chloro-4-methoxybenzoic acid and was obtained as an off-white solid, m.p. 254-256° C.; MS m/e 262 (M+H)+.

reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | 3-chloro-4-methoxybenzoic acid | ClC=1C=C(C(=O)O)C=CC1OC | C8H7ClO3
product | 2-(3-Chloro-4-hydroxyphenyl)-1,3-benzoxazol-6-ol | ClC=1C=C(C=CC1O)C=1OC2=C(N1)C=CC(=C2)O | C13H8ClNO3
